US07465730B2
To a solution of 5-[4-acetyl-2,5-dimethyl-1-(4-ethoxyphenyl)-1H-pyrrol-3-yl]-5-oxo-pentanoic acid methyl ester (250 mg, 0.65 mmol) in ethanol (1 mL) was added a 1.0M solution of hydrazine in ethanol (0.72 mL, 0.72 mmol). The solution was stirred overnight at rt and concentrated in vacuo to give 4-[6-(4-ethoxyphenyl)-4,5,7-trimethyl-6H-pyrrolo[3,4-d]pyridazin-1-yl]-butyric acid methyl ester as a white solid: 1H NMR (CDCl3, 500 MHz) δ 7.11-7.08 (m, 2H), 7.05-7.03 (in, 2H), 4.11 (q, 2H), 3.63 (s, 3H), 3.12 (t, 2H), 2.77 (s, 3H), 2.51 (t, 2H), 2.41 (s, 3H), 2.40 (s, 3H), 2.14 (quintet, 2H), 1.47 (t, 3H); MS (ESI) 382 (M+H)+.

reactant | 5-[4-acetyl-2,5-dimethyl-1-(4-ethoxyphenyl)-1H-pyrrol-3-yl]-5-oxo-pentanoic acid methyl ester | 0.65 mmol, 250 mg | COC(CCCC(=O)C1=C(N(C(=C1C(C)=O)C)C1=CC=C(C=C1)OCC)C)=O | C22H27NO5
reactant | hydrazine | NN | H4N2
solvent | ethanol | 1 mL | C(C)O | C2H6O
solvent | ethanol | 0.72 mmol, 0.72 mL | C(C)O | C2H6O
product | 4-[6-(4-ethoxyphenyl)-4,5,7-trimethyl-6H-pyrrolo[3,4-d]pyridazin-1-yl]-butyric acid methyl ester | COC(CCCC1=NN=C(C=2C1=C(N(C2C)C2=CC=C(C=C2)OCC)C)C)=O | C22H27N3O3
